US07625932B2
Preparation of 2-(4-bromophenyl)-3-methylthiothiophene
A solution of 2-iodo-3-methylthiothiophene (18 g, 70.3 mmol, preparation 2), 4 bromobenzeneboronic acid (14.1 g, 70.3 mmol), potassium carbonate (21.4 g, 155 mmol), tetrakis(triphenylphosphine)-palladium (0) (8.1 g, 7.02 mmol) in a mixture of anhydrous dimethoxyethane (300 ml) and absolute ethanol (150 ml) is degassed with Ar or N2 for 15 min and stirred for 12 hours at 80° C. The reaction mixture is cooled to room temperature, water (100 ml) is then added and the crude product is extracted with methylene chloride (3×150 ml). The crude product is purified by column chromatography using hexane as eluent solvent yielding 12 g (60%) of title compound as a white solid. NOTE: This product is also light sensitive and should be used immediately.

reactant | 2-iodo-3-methylthiothiophene | 70.3 mmol, 18 g | IC=1SC=CC1SC | C5H5IS2
reactant | bromobenzeneboronic acid | 70.3 mmol, 14.1 g | BrC1=C(C=CC=C1)B(O)O | C6H6BBrO2
reactant | potassium carbonate | 155 mmol, 21.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethoxyethane | 300 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)-palladium (0) | 7.02 mmol, 8.1 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-(4-bromophenyl)-3-methylthiothiophene | 12 g, 60% | BrC1=CC=C(C=C1)C=1SC=CC1SC | C11H9BrS2
